US04330559
2-Acetylamino-5-amino-2-difluoromethylpentanoic acid
To a solution of 2.9 g of 2-amino-5-tert-butoxycarbonylamino-2-difluoromethylpentanoic acid in 10.5 ml of 1 M sodium hydroxide is added at 0° C. simultaneously 0.19 g of acetylchloride and 5 ml of 2 M aqueous sodium hydroxide. The reaction mixture is stirred for 3 hours at room temperature. The alkaline aqueous solution is then adjusted to a pH of 2 with hydrochloric acid and extracted with ethylacetate. After usual work-up the solvent is evaporated and the residue taken up in trifluoroacetic acid. After concentration and purification by ion exchange chromatography on a resin 5-amino-2-acetylamino-2-difluoromethylpentanoic acid is obtained.

reactant | 2-amino-5-tert-butoxycarbonylamino-2-difluoromethylpentanoic acid | 2.9 g | NC(C(=O)O)(CCCNC(=O)OC(C)(C)C)C(F)F | C11H20F2N2O4
reactant | acetylchloride | 0.19 g | C(C)(=O)Cl | C2H3ClO
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 1 M, 10.5 ml | [OH-].[Na+]
solvent | sodium hydroxide | 2 M, 5 ml | [OH-].[Na+]
product | 2-Acetylamino-5-amino-2-difluoromethylpentanoic acid | C(C)(=O)NC(C(=O)O)(CCCN)C(F)F | C8H14F2N2O3
